US07135480B2
1-Benzoyl-7-chloro-3-cyano-pyrrolo[1,2-a]quinoline
6-Chloro-1-phenacyl-quinolinium bromide: The title compound was prepared from 2-bromo-1-phenyl-ethanone (483 mg, 2.43 mmol), 6-chloro-quinoline (312 mg, 1.91 mmol) and acetonitrile (5 mL), similar to Example 1a, and yielded 433 mg (63%) as an off white solid: 1H NMR (CDCl3) 10.40 (d, J=5.7 Hz, 1H), 8.95 (d, J=8.7 Hz, 1H), 8.31 (m, 1H), 8.29 (m 1H), 8.24 (d, J=2.1 Hz, 1H), 8.19–8.14 (m, 2H), 7.99 (dd, J=2.1, 9.3 Hz, 1H), 7.70–7.65 (m, 3H), 7.53 (t, J=7.8 Hz, 2H).

reactant | 6-Chloro-1-phenacyl-quinolinium bromide | [Br-].ClC=1C=C2C=CC=[N+](C2=CC1)CC(=O)C1=CC=CC=C1
reactant | 2-bromo-1-phenyl-ethanone | 2.43 mmol, 483 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | 6-chloro-quinoline | 1.91 mmol, 312 mg | ClC=1C=C2C=CC=NC2=CC1 | C9H6ClN
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-Benzoyl-7-chloro-3-cyano-pyrrolo[1,2-a]quinoline | C(C1=CC=CC=C1)(=O)C1=CC(=C2N1C1=CC=C(C=C1C=C2)Cl)C#N | C20H11ClN2O
